US06790865B2
To a stirred suspension of aluminum chloride (1.8 g) in 1,2-dichloroethane (25 ml) was added bromoacetyl bromide (400 μl) under ice-cooling, and the mixture was stirred for 30 minutes. To the stirred mixture was added dropwise a solution of ethyl 2-(3-chlorophenoxy)-2-methylpropionate (1.1 g) in 1,2-dichloroethane (5 ml) under ice-cooling, and the mixture was stirred for 3 hours at 60° C. The reaction mixture was poured into ice-water and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. Purification of the residue by flash column chromatography on silica gel (eluent: hexane/ethyl acetate=10/1) gave ethyl 2-[4-(2-bromoacetyl)-3-chlorophenoxy]-2-methylpropionate (204 mg).

reactant | aluminum chloride | 1.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | bromoacetyl bromide | 400 μl | BrCC(=O)Br | C2H2Br2O
reactant | ethyl 2-(3-chlorophenoxy)-2-methylpropionate | 1.1 g | ClC=1C=C(OC(C(=O)OCC)(C)C)C=CC1 | C12H15ClO3
solvent | 1,2-dichloroethane | 25 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
product | ethyl 2-[4-(2-bromoacetyl)-3-chlorophenoxy]-2-methylpropionate | 204 mg | BrCC(=O)C1=C(C=C(OC(C(=O)OCC)(C)C)C=C1)Cl | C14H16BrClO4
